US09447091B2
c) N-(5-(4-bromo-2-nitrophenylamino)biphenyl-3-yl)acetamide
A solution of N-(5-aminobiphenyl-3-yl)acetamide (1 g, 4.54 mmol), 4-bromo-1-fluoro-2-nitrobenzene (1.03 g, 4.54 mmol, 1.0 eq.) and potassium fluoride (0.26 g, 4.54 mmol, 1.0 eq.) in DMF (5 ml) was heated at 100° C. for 12 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off and the residue was purified by column chromatography (60-120 silica gel, 50% ethyl acetate in hexane) to give the product in 52% yield (1 g).

reactant | N-(5-aminobiphenyl-3-yl)acetamide | 4.54 mmol, 1 g | NC=1C=C(C=C(C1)C1=CC=CC=C1)NC(C)=O | C14H14N2O
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 4.54 mmol, 1.03 g, 1.0 eq. | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | potassium fluoride | 4.54 mmol, 0.26 g, 1.0 eq. | [F-].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(5-(4-bromo-2-nitrophenylamino)biphenyl-3-yl)acetamide | 52% yield | BrC1=CC(=C(C=C1)NC=1C=C(C=C(C1)C1=CC=CC=C1)NC(C)=O)[N+](=O)[O-] | C20H16BrN3O3
